US06184379B2
2,2,4-trimethyl-7-methoxy-1,2-dihydroquinoline
273 g (2.2 mol) m-anisidine and subsequently 221 g (2.2 mol) mesityl oxide were added dropwise at 15-20° C. to 25 ml glacial acetic acid. Then the solution was stirred for ca. 18 hours at room temperature. Subsequently 500 ml hydrobromic acid was added dropwise at 20-30° C. After stirring for 1 h at room temperature the precipitate was filtered. The precipitate which was still wet, was suspended in ca. 1 l acetone, filtered and dried. 200 g 2,2,4-trimethyl-7-methoxy-1,2-dihydro-quinoline hydrobromide was resuspended in a mixture of 1 l water and 500 ml chloroform. The suspension was then neutralized with 10% sodium hydroxide solution. The organic phase was subsequently washed with water, dried over sodium sulfate and evaporated to dryness in a rotary evaporator. The green coloured oil solidified after a short time. The solid was recrystallized from hexane. Colourless crystals formed in a yield of 39% with a melting point of 67° C.-69° C.

reactant | m-anisidine | 2.2 mol, 273 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | mesityl oxide | 2.2 mol, 221 g | O=C(C)C=C(C)C | C6H10O
reactant | hydrobromic acid | 500 ml | Br | BrH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2,2,4-trimethyl-7-methoxy-1,2-dihydroquinoline | yield of 39% | CC1(NC2=CC(=CC=C2C(=C1)C)OC)C | C13H17NO
